US07884110B2
Intermediate 4: 2-Cyano-5-methyl-3-nitropyridine
A round bottom flask was charged with 2-bromo-5-methyl-3-nitropyridine (60.53 g, 278.9 mmol) and CuCN (27.52 g, 307.3 mmol) The flask was evacuated, and back-filled with nitrogen. DMF (150 mL) was added via cannula. The solution was heated to 70° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was poured into EtOAc (500 mL) and water (250 mL). Both phases were filtered through a 1 cm bed of celite. The layers were separated, and the organic phase washed with water (2×100 mL) then with a solution of 1:1 sat. aq. NH4Cl/NH4OH (2×100 mL). The combined aqueous layers were extracted with EtOAc (2×200 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (36.10 g, 79% yield).

reactant | 2-bromo-5-methyl-3-nitropyridine | 278.9 mmol, 60.53 g | BrC1=NC=C(C=C1[N+](=O)[O-])C | C6H5BrN2O2
reactant | CuCN | 307.3 mmol, 27.52 g | C(#N)[Cu]
product | 2-Cyano-5-methyl-3-nitropyridine | 36.10 g, 79% yield | C(#N)C1=NC=C(C=C1[N+](=O)[O-])C | C7H5N3O2
